US06787561B1
2-(6-Hydroxyhexyl)benzimidazole
1.6 g of methyl 7-hydroxyheptanoate and 1.08 g of o-phenylenediamine were refluxed for 7 hours in 15 ml of 2:1 hydrochloric acid aqueous solution. The reaction mixture was cooled to room temperature, then adjusted to pH 8 with addition of aqueous NaHCO3 and extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate) to obtain 0.9 g of the title compound (yield: 41%).

reactant | methyl 7-hydroxyheptanoate | 1.6 g | OCCCCCCC(=O)OC | C8H16O3
reactant | o-phenylenediamine | 1.08 g | C1(=C(C=CC=C1)N)N | C6H8N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | hydrochloric acid | 15 ml | Cl | ClH
product | 2-(6-Hydroxyhexyl)benzimidazole | 0.9 g, yield: 41% | OCCCCCCC=1NC2=C(N1)C=CC=C2 | C13H18N2O
